US05834468
4-[N-(2-Benzyloxy-5-bromophenethyl)-N-methylamino]benzoic acid
Ethyl 4-[N-(2-benzyloxy-5-bromophenethyl)amino]benzoate was converted to ethyl 4-[N-(2-benzyloxy-5-bromophenethyl)-N-methylamino]benzoate using a similar method to that described in Example 41(D) except methyl iodide was used in place of iodoethane.

reactant | Ethyl 4-[N-(2-benzyloxy-5-bromophenethyl)amino]benzoate | C(C1=CC=CC=C1)OC1=C(CCNC2=CC=C(C(=O)OCC)C=C2)C=C(C=C1)Br | C24H24BrNO3
reactant | ethyl 4-[N-(2-benzyloxy-5-bromophenethyl)-N-methylamino]benzoate | C(C1=CC=CC=C1)OC1=C(CCN(C)C2=CC=C(C(=O)OCC)C=C2)C=C(C=C1)Br | C25H26BrNO3
reactant | methyl iodide | CI | CH3I
product | 4-[N-(2-Benzyloxy-5-bromophenethyl)-N-methylamino]benzoic acid | C(C1=CC=CC=C1)OC1=C(CCN(C)C2=CC=C(C(=O)O)C=C2)C=C(C=C1)Br | C23H22BrNO3
